US04053470
w. 6-(m-Piperidinylphenyl)-1,2-dihydro-2-oxonicotinyl Chloride Hydrochloride.
6-(m-Piperidinylphenyl)-1,2-dihydro-2-oxonicotinic acid, 5.22 g. (0.0165 mole) is added to 100 ml. of thionyl chloride and the mixture is stirred overnight at room temperature. The solid 6-(m-piperidinylphenyl)-1,2-dihydro-2-oxonicotinyl chloride hydrochloride is separated by filtration, washed three times with 100 ml. of hexane and dried over phosphorous pentoxide in vacuo. The product may be used directly in the next step.

reactant | 6-(m-Piperidinylphenyl)-1,2-dihydro-2-oxonicotinic acid | N1(CCCCC1)C=1C=C(C=CC1)C=1NC(C(C(=O)O)=CC1)=O | C17H18N2O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 6-(m-Piperidinylphenyl)-1,2-dihydro-2-oxonicotinyl Chloride Hydrochloride | Cl.N1(CCCCC1)C=1C=C(C=CC1)C=1NC(C(CCl)=CC1)=O | InChI=1S/C17H19ClN2O.ClH/c18-12-14-7-8-16(19-17(14)21)13-5-4-6-15(11-13)20-9-2-1-3-10-20;/h4-8,11H,1-3,9-10,12H2,(H,19,21);1H
